US07601736B2
2-chloro-4,6-dimethyl-nicotinonitrile (700 mg, 4.201 mmol) and Pd(PPh3)4 (243 mg, 0.210 mmol) were dissolved in 20 mL of anhydrous THF, added with methylzinc chloride (2M CH3ZnCl/THF, 12.6 mL, 25.21 mmol) and refluxed for about 40 hours under the nitrogen atmosphere. The mixture was added to a saturated EDTA solution (50 mL), and neutralized with potassium carbonate while stirring at 0° C. and then extracted twice with 150 mL of methylene chloride. The resulting organic layer was dried using anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (25% EtOAc/Hexanes) was performed on the resulting residue and 535 mg (87%) of 2,4,6-trimethyl-nicotinonitrile was obtained in white solid.

reactant | 2-chloro-4,6-dimethyl-nicotinonitrile | 4.201 mmol, 700 mg | ClC1=C(C#N)C(=CC(=N1)C)C | C8H7ClN2
reactant | methylzinc chloride | 25.21 mmol, 2M, 12.6 mL | [Cl-].C[Zn+]
reactant | EDTA | 50 mL | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.210 mmol, 243 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4,6-trimethyl-nicotinonitrile | 535 mg, 87% | CC1=C(C#N)C(=CC(=N1)C)C | C9H10N2
